US08685969B2
A solution of benzyl 3-formyl-2-methylphenylcarbamate (5.1667 g, 19.19 mmol), nitroethane (6.89 ml, 96 mmol) and ammonium acetate (7.39 g, 96 mmol) in acetic acid (Volume: 64.0 ml) under nitrogen was heated at 95° C. After 3 h, the reaction was cooled to room temperature and concentrated in vacuo. The residue was dissolved in water (40 mL) and CH2Cl2 (75 mL), and basified with Na2CO3 (s). The layers were separated, and the aqueous layer was extracted with CH2Cl2 (2×75 mL). The organic layers were combined, dried over MgSO4, filtered and concentrated in vacuo. The residue was purified by flash chromatography using an ISCO 330 g column eluting with 50-100% hexane/CH2Cl2. Appropriate fractions were collected and concentrated in vacuo to give (E)-benzyl 2-methyl-3-(2-nitroprop-1-enyl)phenylcarbamate (2.4714 g, 39.5% yield) as a yellow solid, LC/MS (M+H)=327.16. 0.6875 g of desired product (75% pure by HPLC) was also collected.

reactant | benzyl 3-formyl-2-methylphenylcarbamate | 19.19 mmol, 5.1667 g | C(=O)C=1C(=C(C=CC1)NC(OCC1=CC=CC=C1)=O)C | C16H15NO3
reactant | nitroethane | 96 mmol, 6.89 ml | [N+](=O)([O-])CC | C2H5NO2
reactant | ammonium acetate | 96 mmol, 7.39 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 64.0 ml | C(C)(=O)O | C2H4O2
product | (E)-benzyl 2-methyl-3-(2-nitroprop-1-enyl)phenylcarbamate | 2.4714 g, 39.5% yield | CC1=C(C=CC=C1\C=C(/C)\[N+](=O)[O-])NC(OCC1=CC=CC=C1)=O | C18H18N2O4
